US07981903B2
To pinacolone (50 mL, Aldrich) was added 3-[4-(methyloxy)-3-nitrophenyl]pyridine (3.5 g, 15.22 mmol) and propyliodide (10.46 g, 61.52 mmol, Fluke). The reaction was stirred at 95° C. overnight. The solvent was decanted and the remaining solids were dried under reduced pressure overnight to provide 3-[4-(methyloxy)-3-nitrophenyl]-1-propylpyridinium iodide, which was use for the next reaction without further purification.

reactant | 3-[4-(methyloxy)-3-nitrophenyl]pyridine | 15.22 mmol, 3.5 g | COC1=C(C=C(C=C1)C=1C=NC=CC1)[N+](=O)[O-] | C12H10N2O3
reactant | propyliodide | 61.52 mmol, 10.46 g | C(CC)I | C3H7I
solvent | pinacolone | 50 mL | CC(C(C)(C)C)=O | C6H12O
product | 3-[4-(methyloxy)-3-nitrophenyl]-1-propylpyridinium iodide | [I-].COC1=C(C=C(C=C1)C=1C=[N+](C=CC1)CCC)[N+](=O)[O-] | InChI=1S/C15H17N2O3.HI/c1-3-8-16-9-4-5-13(11-16)12-6-7-15(20-2)14(10-12)17(18)19;/h4-7,9-11H,3,8H2,1-2H3;1H/q+1;/p-1
